US07211576B2
Ethyl-[1-(4-nitro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester
To a stirred solution of ethyl-[1-(4-nitro-phenyl)-piperidin-4-yl]-amine {570 mg, 2.28 mol, prepared through a similar procedure described by Lubisch, Wilfried et al. EP 19920422 with ethylamine and 1-[4-nitro-phenyl]-piperidin-4-one (prepared by the procedure of Taylor, E. C. et al; synthesis, 1981, (8), 606–608} in 1,4-dioxane (30 mL), Dipea (Aldrich, 327 mg, 2.53 mmol) and BOC anhydride (Aldrich, 503 mg, 2.28 mmol) were added and the mixture was stirred at room temperature overnight. The mixture was poured into 600 mL of ice water and the new mixture was stirred for 1 hour. The precipitate was filtered, washed with water and dried to give a solid. 540 mg, 68%. MS (m+H)+: 350.

reactant | ethyl-[1-(4-nitro-phenyl)-piperidin-4-yl]-amine | 2.28 mol, 570 mg | C(C)NC1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O2
reactant | ethylamine | C(C)N | C2H7N
reactant | 1-[4-nitro-phenyl]-piperidin-4-one | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | BOC anhydride | 2.28 mmol, 503 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Ethyl-[1-(4-nitro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CC)=O | C18H27N3O4
